US04125720
5.9 g of 6-ethoxycarbonyl-8-ethyl-2-methoxy-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine, 4.6 g. of pyrrolidine and 12 g of toluene are heated for 2 hours at 90° C. After cooling, 100 cm3 of water are added to the mixture. The precipitate is filtered off and washed with water. After drying, 5.5 g of 6-ethoxycarbonyl-8-ethyl-5-oxo-2-pyrrolidino-5,8-dihydro-pyrido[2,3-d]pyrimidine are obtained. After recrystallisation from ethanol, it melts at 202° C and is identical to the product described in the literature.

reactant | 6-ethoxycarbonyl-8-ethyl-2-methoxy-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine | 5.9 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)OC)N(C1)CC)=O | C13H15N3O4
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | toluene | 12 g | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 cm3 | O | H2O
product | 6-ethoxycarbonyl-8-ethyl-5-oxo-2-pyrrolidino-5,8-dihydro-pyrido[2,3-d]pyrimidine | 5.5 g | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)N2CCCC2)N(C1)CC)=O | C16H20N4O3
